US05104989
(S)-(-)-N-[1-(1-Naphthyl)ethyl]-N-butoxymethyltrimethylsilylmethyl amine (IV, R1 =H, R2 =Me, R3 =1-naphthyl, R4 =Bu)
The title compound was prepared from (S)-(-)-N-1-(1-naphthyl)ethyl-N-trimethylsilylmethylamine by reaction with n-butanol and aqueous formaldehyde following the procedure of Example 2 to give the crude acetal (80% pure) as a pale yellow oil (5.5 g, 82%). δH [CD3)2CO] 0.1 (s, SiMe3), 0.93 (t, J 7 Hz, CH3CH2), 1.2-1.7 (m, CH3CH and (CH2)2), 2.22, 2.45 (AB quartet, J 15 Hz, NCH2Si), 3.25 (t, J 7 Hz, CH2O), 4.22, 4.35 (AB quartet, J 10 Hz, NCH2O), 4.78 (q, J 7 Hz, CH), 7.3-8.5 (m, naphthyl).

reactant | (S)-(-)-N-1-(1-naphthyl)ethyl-N-trimethylsilylmethylamine | C1(=CC=CC2=CC=CC=C12)[C@H](C)NC[Si](C)(C)C | C16H23NSi
reactant | formaldehyde | C=O | CH2O
solvent | n-butanol | C(CCC)O | C4H10O
product | (S)-(-)-N-[1-(1-Naphthyl)ethyl]-N-butoxymethyltrimethylsilylmethyl amine | C1(=CC=CC2=CC=CC=C12)[C@H](C)N(COCCCC)C[Si](C)(C)C | C21H33NOSi
